US06248755B1
Step A: 1-Benzoyl-isonipecotic Acid
To a solution of 10 g of isonipecotic acid in 100 mL of H2O was added 31 mL of 5 N NaOH at 0° C. The reaction was warmed to room temperature and stirred for 0.5 hr. The reaction was again cooled to 0° C. and 11.97 g of benzoyl chloride was added. The reaction was then warmed to room temperature and stirred for 1.5 hr. Concentrated HCl was then added until a precipitate formed. The mixture was extracted with 3×150 mL of EtOAc and the combined organic layers were dried over MgSO4. The solvent was evaporated under reduced pressure and the residue was dissolved in CH2Cl2. Ether was then slowly added to precipitate the product which was filtered to give 8 g of the title compound. 1H NMR (500 MHz) 1.83 (m, 3H), 2.10 (m, 1H), 2.65 (m, 1H), 3.12 (m, 2H), 3.79 (m, 1H), 4.53 (m, 1H), 7.38 (m, 5H).

reactant | isonipecotic acid | 10 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | NaOH | 5 N, 31 mL | [OH-].[Na+]
reactant | benzoyl chloride | 11.97 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | HCl | Cl | ClH
solvent | H2O | 100 mL | O | H2O
product | 1-Benzoyl-isonipecotic Acid | 8 g | C(C1=CC=CC=C1)(=O)N1CCC(C(=O)O)CC1 | C13H15NO3
